US06949648B2
Following the procedure described in Reference Example 1-1, 3-methyl-1-(6-ethoxy-2-pyridinyl)-1H-pyrazol-5-amine was prepared from aminocrotononitrile and 6-ethoxy-2-hydrazinopyridine. Following the procedure described in Reference Example 1-2, the compound was subjected to a reaction with ethyl 2-benzoyl-3-ethoxy-2-propenoate to give ethyl 2-benzoyl-3-[[3-methyl-1-(6-ethoxy-2-pyridinyl)-1H-pyrazol-5-yl]amino)-2-propenoate. The compound was treated following the method described in Example 1-4 to give the title compound (35% cyclization yield).

reactant | 3-methyl-1-(6-ethoxy-2-pyridinyl)-1H-pyrazol-5-amine | CC1=NN(C(=C1)N)C1=NC(=CC=C1)OCC | C11H14N4O
reactant | aminocrotononitrile | N/C(/C#N)=C\C | C4H6N2
reactant | 6-ethoxy-2-hydrazinopyridine | C(C)OC1=CC=CC(=N1)NN | C7H11N3O
reactant | ethyl 2-benzoyl-3-ethoxy-2-propenoate | C(C1=CC=CC=C1)(=O)C(C(=O)OCC)=COCC | C14H16O4
product | ethyl 2-benzoyl-3-[[3-methyl-1-(6-ethoxy-2-pyridinyl)-1H-pyrazol-5-yl]amino)-2-propenoate | C(C1=CC=CC=C1)(=O)C(C(=O)OCC)=CNC1=CC(=NN1C1=NC(=CC=C1)OCC)C | C23H24N4O4
